US08026257B2
2-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetonitrile.
To a solution of (5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methyl methanesulfonate (3.25 g, 8.3 mmol) in dimethylformamide (10 mL) at room temperature was added sodium cyanide (0.815 g, 16.6 mmol). The reaction was placed in a 60° C. oil bath and allowed to stir for 30 min. The reaction was cooled, diluted with diethyl ether, washed with water (2×), then brine, dried over magnesium sulfate, and concentrated to give 2.33 g (87%). 1H-NMR (CDCl3, 500 MHz) δ 8.07 (s, 1H), 7.62 (d, J=1.2 Hz, 1H), 7.32 (d, J=1.2 Hz, 1H), 5.68 (s, 2H), 4.09 (s, 2H), 3.62 (t, J=8.2 Hz, 2H), 0.93 (t, J=7.9 Hz, 2H), -0.04 (s, 9H), 13C NMR (126 MHz, CDCl3) δ ppm 145.7, 127.7, 126.4, 123.2, 122.4, 121.8, 119.5, 117.0, 82.1, 67.9, 19.4, 17.9, −1.4.

reactant | (5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methyl methanesulfonate | 8.3 mmol, 3.25 g | CS(=O)(=O)OCC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)Cl | C15H23ClN2O4SSi
reactant | sodium cyanide | 16.6 mmol, 0.815 g | [C-]#N.[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(5-Chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetonitrile | ClC1=CC2=CN(N=C2C(=C1)CC#N)COCC[Si](C)(C)C | C15H20ClN3OSi
